US04797400
The 1-[(4-methoxyphenoxy)carbonylmethyl]-4-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (8.0 g) obtained above is added to a 5% aqueous potassium carbonate solution (100 ml), and the produced oily substance is extracted with chloroform (150 ml). The chloroform layer is dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is recrystallized from a mixture of ethyl acetate and n-hexane to give 1-[(4-methoxyphenoxy)carbonylmethyl]-4-(3,4,5-trimethoxybenzyl)piperazine (5.2 g).

reactant | 1-[(4-methoxyphenoxy)carbonylmethyl]-4-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 8.0 g | Cl.Cl.COC1=CC=C(OC(=O)CN2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)C=C1
solvent | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
product | 1-[(4-methoxyphenoxy)carbonylmethyl]-4-(3,4,5-trimethoxybenzyl)piperazine | 5.2 g | COC1=CC=C(OC(=O)CN2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C23H30N2O6
